US06992087B2
methyl N-(2-aminobutanoyl)alaninate hydrochloride
Following the procedure for the preparation of methyl (L-alanylamino)(cyclopropyl)acetate hydrochloride but substituting methyl N-{2-[(tert-butoxycarbonyl)amino]butanoyl}alaninate and making non-critical variations provided the title compound as a solid: 1H NMR (DMSO-d6) δ 0.86-0.92, 1.39-1.41, 1.62-1.82, 3.64, 3.92, 4.18-4.23, 8.36. 8.92.

reactant | methyl (L-alanylamino)(cyclopropyl)acetate hydrochloride | Cl.N[C@@H](C)C(=O)NC(C(=O)OC)C1CC1
reactant | methyl N-{2-[(tert-butoxycarbonyl)amino]butanoyl}alaninate | C(C)(C)(C)OC(=O)NC(C(=O)N[C@@H](C)C(=O)OC)CC | C13H24N2O5
product | methyl N-(2-aminobutanoyl)alaninate hydrochloride | Cl.NC(C(=O)N[C@@H](C)C(=O)OC)CC | InChI=1S/C8H16N2O3.ClH/c1-4-6(9)7(11)10-5(2)8(12)13-3;/h5-6H,4,9H2,1-3H3,(H,10,11);1H/t5-,6?;/m0./s1
